* File: G5_XNOR3_N1.pex.netlist.pex
* Created: Fri Mar 25 15:42:00 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G5_XNOR3_N1_VDD 2 5 9 12 14 17 34 35 44 45 54 55 77 79 80 81 84 86 90
+ 93 96 98 102 104 108 112 114 116 118 119 125 134 139 Vss
c122 139 Vss 0.00481852f
c123 134 Vss 0.00580927f
c124 125 Vss 0.00558883f
c125 119 Vss 2.39889e-19
c126 118 Vss 4.91159e-19
c127 117 Vss 4.14624e-19
c128 114 Vss 3.56526e-19
c129 112 Vss 0.00104518f
c130 108 Vss 3.94646e-19
c131 104 Vss 0.00602085f
c132 102 Vss 0.00109141f
c133 98 Vss 0.00553212f
c134 96 Vss 0.0016276f
c135 93 Vss 0.00243759f
c136 90 Vss 0.00352468f
c137 86 Vss 0.00659816f
c138 84 Vss 0.0015095f
c139 81 Vss 8.67152e-19
c140 80 Vss 0.00945954f
c141 79 Vss 0.00914208f
c142 77 Vss 0.00176824f
c143 57 Vss 5.45153e-20
c144 55 Vss 0.0336444f
c145 54 Vss 0.0988545f
c146 45 Vss 0.0346156f
c147 44 Vss 0.1003f
c148 35 Vss 0.0346129f
c149 34 Vss 0.0990563f
c150 17 Vss 0.165098f
c151 14 Vss 0.00210084f
c152 12 Vss 0.00231756f
c153 9 Vss 0.16518f
c154 5 Vss 0.165156f
c155 2 Vss 0.00208065f
r156 110 112 4.83471
r157 108 139 1.16709
r158 106 108 2.16729
r159 105 119 0.494161
r160 104 110 0.652036
r161 104 105 7.46046
r162 102 134 1.16709
r163 100 119 0.128424
r164 100 102 2.16729
r165 99 118 0.494161
r166 98 106 0.652036
r167 98 99 10.3363
r168 94 117 0.0828784
r169 94 96 2.00578
r170 93 118 0.128424
r171 92 117 0.551426
r172 92 93 4.16786
r173 90 125 1.16709
r174 88 117 0.551426
r175 88 90 5.835
r176 87 116 0.326018
r177 86 118 0.494161
r178 86 87 10.1279
r179 82 114 0.0828784
r180 82 84 1.82344
r181 80 119 0.494161
r182 80 81 15.8795
r183 79 116 0.326018
r184 78 114 0.551426
r185 78 79 13.3371
r186 77 114 0.551426
r187 76 81 0.652036
r188 76 77 4.16786
r189 57 139 0.238214
r190 55 57 1.45875
r191 54 58 0.652036
r192 54 57 1.45875
r193 51 55 0.652036
r194 47 134 0.238214
r195 45 47 1.45875
r196 44 48 0.652036
r197 44 47 1.45875
r198 41 45 0.652036
r199 37 125 0.238214
r200 35 37 1.45875
r201 34 38 0.652036
r202 34 37 1.45875
r203 31 35 0.652036
r204 17 58 2.5674
r205 17 51 2.5674
r206 14 112 1.16709
r207 12 96 1.16709
r208 9 48 2.5674
r209 9 41 2.5674
r210 5 38 2.5674
r211 5 31 2.5674
r212 2 84 1.16709
.ends

.subckt PM_G5_XNOR3_N1_C 2 4 6 8 17 20 23 40 43 47 52 57 62 85 87 93 98 Vss
c60 98 Vss 8.02961e-19
c61 93 Vss 6.27504e-19
c62 87 Vss 0.0049214f
c63 85 Vss 0.00877979f
c64 62 Vss 0.00258187f
c65 57 Vss 0.00458232f
c66 52 Vss 0.00201471f
c67 47 Vss 4.03464e-19
c68 43 Vss 3.73849e-19
c69 40 Vss 5.60764e-19
c70 23 Vss 1.05295e-19
c71 20 Vss 0.220565f
c72 17 Vss 0.0715834f
c73 15 Vss 0.0247918f
c74 8 Vss 0.00236553f
c75 4 Vss 0.0826049f
r76 88 98 0.0685365
r77 87 89 0.652036
r78 87 88 10.3363
r79 86 93 0.0685365
r80 85 98 0.0685365
r81 85 86 24.7154
r82 52 89 2.16729
r83 47 62 1.16709
r84 47 98 2.12561
r85 43 57 1.16709
r86 43 93 0.5835
r87 40 43 0.0416786
r88 23 57 0.0476429
r89 21 23 0.326018
r90 21 23 0.1167
r91 20 24 0.652036
r92 20 23 6.7686
r93 17 57 0.357321
r94 15 23 0.326018
r95 15 17 0.40845
r96 8 52 1.16709
r97 6 62 0.75
r98 4 24 2.5674
r99 2 17 2.15895
.ends

.subckt PM_G5_XNOR3_N1_VSS 3 6 11 15 18 34 37 44 45 47 54 55 73 78 83 88 93 96
+ 99 108 113 122 124 125 126 131 132 137 145 153 154 155 Vss
c131 155 Vss 3.75522e-19
c132 154 Vss 3.87529e-19
c133 153 Vss 4.4306e-19
c134 137 Vss 0.00333207f
c135 132 Vss 8.38361e-19
c136 131 Vss 0.00578307f
c137 126 Vss 8.35423e-19
c138 125 Vss 0.00509728f
c139 124 Vss 0.0036146f
c140 122 Vss 0.00254978f
c141 113 Vss 0.00381203f
c142 108 Vss 0.0040091f
c143 99 Vss 0.00484046f
c144 96 Vss 0.00348301f
c145 93 Vss 0.00279856f
c146 88 Vss 7.12901e-19
c147 83 Vss 0.00141291f
c148 78 Vss 0.0025656f
c149 73 Vss 0.00249897f
c150 55 Vss 0.0338093f
c151 54 Vss 0.0988897f
c152 47 Vss 7.60188e-20
c153 45 Vss 0.0331638f
c154 44 Vss 0.0974849f
c155 37 Vss 7.50699e-20
c156 35 Vss 0.0349827f
c157 34 Vss 0.1003f
c158 18 Vss 0.00263959f
c159 15 Vss 0.164604f
c160 11 Vss 0.166952f
c161 6 Vss 0.00172036f
c162 3 Vss 0.167004f
r163 143 155 0.494161
r164 143 145 6.71025
r165 139 155 0.128424
r166 138 154 0.494161
r167 137 149 0.652036
r168 137 138 7.46046
r169 133 154 0.128424
r170 131 155 0.494161
r171 131 132 15.8795
r172 127 153 0.0828784
r173 125 154 0.494161
r174 125 126 13.0037
r175 124 132 0.652036
r176 123 153 0.551426
r177 123 124 10.6697
r178 122 153 0.551426
r179 121 126 0.652036
r180 121 122 6.83529
r181 96 145 1.33371
r182 93 96 5.41821
r183 88 113 1.16709
r184 88 149 2.16729
r185 83 108 1.16709
r186 83 139 2.16729
r187 78 133 4.83471
r188 73 99 1.16709
r189 73 127 4.33978
r190 57 113 0.238214
r191 55 57 1.45875
r192 54 58 0.652036
r193 54 57 1.45875
r194 51 55 0.652036
r195 47 108 0.238214
r196 45 47 1.45875
r197 44 48 0.652036
r198 44 47 1.45875
r199 41 45 0.652036
r200 37 99 0.238214
r201 35 37 1.45875
r202 34 38 0.652036
r203 34 37 1.45875
r204 31 35 0.652036
r205 18 93 1.16709
r206 15 58 2.5674
r207 15 51 2.5674
r208 11 48 2.5674
r209 11 41 2.5674
r210 6 78 1.16709
r211 3 38 2.5674
r212 3 31 2.5674
.ends

.subckt PM_G5_XNOR3_N1_CI 2 6 8 34 39 44 79 80 85 91 Vss
c47 91 Vss 2.52123e-19
c48 85 Vss 0.00547442f
c49 80 Vss 3.74154e-19
c50 79 Vss 0.0039666f
c51 44 Vss 0.00209085f
c52 39 Vss 0.00132824f
c53 34 Vss 0.00535743f
c54 8 Vss 0.00276539f
c55 6 Vss 0.00213002f
c56 2 Vss 0.00154503f
r57 86 91 0.494161
r58 85 87 0.652036
r59 85 86 10.3363
r60 81 91 0.128424
r61 79 91 0.494161
r62 79 80 21.8396
r63 75 80 0.652036
r64 44 87 2.16729
r65 39 81 2.16729
r66 34 75 11.3366
r67 8 44 1.16709
r68 6 39 1.16709
r69 2 34 1.16709
.ends

.subckt PM_G5_XNOR3_N1_A 2 4 7 11 21 24 45 49 51 54 56 57 58 62 63 69 74 Vss
c79 74 Vss 0.00491901f
c80 69 Vss 0.00491594f
c81 63 Vss 8.26639e-19
c82 62 Vss 4.20301e-19
c83 58 Vss 0.0011362f
c84 57 Vss 0.00976615f
c85 56 Vss 0.00370619f
c86 51 Vss 0.00520175f
c87 49 Vss 0.135015f
c88 45 Vss 0.126353f
c89 24 Vss 0.2139f
c90 21 Vss 0.0724995f
c91 19 Vss 0.0247918f
c92 7 Vss 1.00425f
c93 4 Vss 0.0850321f
r94 74 77 0.1
r95 66 77 1.16709
r96 63 66 0.833571
r97 60 69 1.16709
r98 60 62 0.513084
r99 57 63 0.0685365
r100 57 58 10.4613
r101 55 58 0.652036
r102 55 56 8.66914
r103 54 62 0.791893
r104 51 56 0.652036
r105 51 54 9.41936
r106 47 49 4.53833
r107 44 74 0.262036
r108 44 45 2.26917
r109 41 44 2.26917
r110 36 49 0.00605528
r111 35 45 0.00605528
r112 32 47 0.00605528
r113 31 41 0.00605528
r114 27 69 0.0952857
r115 25 27 0.326018
r116 25 27 0.1167
r117 24 28 0.652036
r118 24 27 6.7686
r119 21 27 0.3335
r120 19 27 0.326018
r121 19 21 0.2334
r122 11 36 2.5674
r123 11 32 2.5674
r124 7 11 12.837
r125 7 35 2.5674
r126 7 11 12.837
r127 7 31 2.5674
r128 4 28 2.5674
r129 2 21 2.334
.ends

.subckt PM_G5_XNOR3_N1_BI 2 6 8 16 23 32 37 42 51 56 64 65 71 78 83 84 Vss
c70 84 Vss 1.10364e-19
c71 83 Vss 0.00214683f
c72 78 Vss 8.34553e-19
c73 71 Vss 5.02505e-19
c74 65 Vss 4.43116e-19
c75 64 Vss 0.00191151f
c76 56 Vss 0.00250766f
c77 51 Vss 0.00202351f
c78 42 Vss 0.00122467f
c79 37 Vss 4.09629e-19
c80 32 Vss 0.00157267f
c81 23 Vss 7.03109e-20
c82 16 Vss 0.0573997f
c83 8 Vss 0.0573997f
c84 2 Vss 0.00150258f
r85 82 84 0.65228
r86 82 83 3.46076
r87 78 83 0.65228
r88 74 78 2.1006
r89 71 74 2.08393
r90 64 71 0.0685365
r91 64 65 13.2121
r92 60 65 0.652036
r93 42 56 1.16709
r94 42 84 2.1395
r95 37 51 1.16709
r96 37 74 0.0416786
r97 32 60 4.29289
r98 23 56 0.50025
r99 16 51 0.50025
r100 8 23 1.80885
r101 6 16 1.80885
r102 2 32 1.16709
.ends

.subckt PM_G5_XNOR3_N1_AI 2 7 11 31 36 37 46 51 60 69 Vss
c47 69 Vss 2.92061e-19
c48 60 Vss 0.0055297f
c49 51 Vss 0.00389112f
c50 46 Vss 9.98085e-19
c51 37 Vss 0.127837f
c52 36 Vss 5.86204e-20
c53 31 Vss 0.128631f
c54 7 Vss 0.994815f
c55 2 Vss 0.00150258f
r56 65 69 0.652036
r57 60 63 0.1
r58 51 63 1.16709
r59 51 69 13.7539
r60 46 65 2.16729
r61 36 60 0.262036
r62 36 37 2.334
r63 33 36 2.20433
r64 29 31 4.53833
r65 26 37 0.00605528
r66 25 31 0.00605528
r67 22 33 0.00605528
r68 21 29 0.00605528
r69 11 26 2.5674
r70 11 22 2.5674
r71 7 11 12.837
r72 7 25 2.5674
r73 7 11 12.837
r74 7 21 2.5674
r75 2 46 1.16709
.ends

.subckt PM_G5_XNOR3_N1_B 2 4 6 8 16 17 24 28 31 42 45 50 55 60 65 69 76 77 Vss
c63 77 Vss 1.47395e-19
c64 76 Vss 6.32207e-19
c65 69 Vss 0.0035022f
c66 65 Vss 0.00265398f
c67 60 Vss 0.00253939f
c68 55 Vss 0.00274111f
c69 50 Vss 0.00171367f
c70 45 Vss 5.45343e-20
c71 42 Vss 5.46775e-19
c72 31 Vss 0.0573997f
c73 24 Vss 1.2014e-19
c74 20 Vss 0.0247918f
c75 17 Vss 0.0338376f
c76 16 Vss 0.183114f
c77 6 Vss 0.0573997f
c78 4 Vss 0.0714101f
c79 2 Vss 0.0826049f
r80 76 77 0.65228
r81 75 76 3.46076
r82 69 75 0.65228
r83 50 65 1.16709
r84 50 77 2.1395
r85 45 60 1.16709
r86 45 69 2.1006
r87 38 55 1.16709
r88 38 45 10.7364
r89 38 42 0.0364688
r90 36 55 0.0476429
r91 31 65 0.50025
r92 28 60 0.50025
r93 24 55 0.357321
r94 20 36 0.326018
r95 20 24 0.40845
r96 17 36 6.7686
r97 16 36 0.326018
r98 16 36 0.1167
r99 13 17 0.652036
r100 8 31 1.80885
r101 6 28 1.80885
r102 4 24 2.15895
r103 2 13 2.5674
.ends

.subckt PM_G5_XNOR3_N1_Z 2 4 30 33 Vss
c31 30 Vss 0.00315811f
c32 4 Vss 0.00153036f
c33 2 Vss 0.00166246f
r34 33 35 4.20954
r35 30 33 4.95975
r36 4 35 1.16709
r37 2 30 1.16709
.ends

