* File: G4_XNOR2_N2.pex.netlist.pex
* Created: Wed Mar 16 11:10:33 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G4_XNOR2_N2_VDD 2 5 9 12 14 16 32 42 43 45 54 59 63 66 68 69 70 73 75
+ 76 79 81 85 89 91 93 98 99 100 103 109 114 Vss
c104 114 Vss 0.00451172f
c105 109 Vss 0.0046333f
c106 101 Vss 8.60971e-19
c107 100 Vss 2.39889e-19
c108 99 Vss 4.52364e-19
c109 98 Vss 0.00501239f
c110 93 Vss 0.00287584f
c111 91 Vss 0.0106993f
c112 89 Vss 0.00158164f
c113 85 Vss 4.92677e-19
c114 81 Vss 0.00450584f
c115 79 Vss 0.00110794f
c116 76 Vss 8.67986e-19
c117 75 Vss 0.00221168f
c118 73 Vss 0.00195091f
c119 70 Vss 8.63914e-19
c120 69 Vss 0.005504f
c121 68 Vss 0.00838153f
c122 66 Vss 0.00213842f
c123 63 Vss 0.00546856f
c124 59 Vss 0.00725053f
c125 54 Vss 0.00546856f
c126 45 Vss 1.15207e-19
c127 43 Vss 0.0351228f
c128 42 Vss 0.100955f
c129 33 Vss 0.035919f
c130 32 Vss 0.100953f
c131 14 Vss 0.00143442f
c132 9 Vss 0.266831f
c133 5 Vss 0.270069f
r134 98 103 0.326018
r135 97 98 4.58464
r136 93 97 0.655813
r137 93 95 1.82344
r138 92 101 0.494161
r139 91 103 0.326018
r140 91 92 13.0037
r141 87 101 0.128424
r142 87 89 5.2515
r143 85 114 1.16709
r144 83 85 2.16729
r145 82 100 0.494161
r146 81 101 0.494161
r147 81 82 7.46046
r148 79 109 1.16709
r149 77 100 0.128424
r150 77 79 2.16729
r151 75 100 0.494161
r152 75 76 4.37625
r153 71 99 0.0828784
r154 71 73 1.82344
r155 69 83 0.652036
r156 69 70 10.1279
r157 68 76 0.652036
r158 67 99 0.551426
r159 67 68 14.7125
r160 66 99 0.551426
r161 65 70 0.652036
r162 65 66 4.58464
r163 63 95 1.16709
r164 59 89 1.16709
r165 54 73 1.16709
r166 45 114 0.0476429
r167 43 45 1.45875
r168 42 46 0.652036
r169 42 45 1.45875
r170 39 43 0.652036
r171 35 109 0.0476429
r172 33 35 1.45875
r173 32 36 0.652036
r174 32 35 1.45875
r175 29 33 0.652036
r176 16 63 0.185659
r177 14 59 0.185659
r178 12 59 0.185659
r179 9 46 3.8511
r180 9 39 3.8511
r181 5 36 3.8511
r182 5 29 3.8511
r183 2 54 0.185659
.ends

.subckt PM_G4_XNOR2_N2_VSS 3 6 8 11 14 16 32 33 42 43 54 59 63 66 71 76 81 87 96
+ 101 114 116 117 118 123 124 129 137 142 143 144 146 Vss
c87 144 Vss 3.75522e-19
c88 143 Vss 4.28045e-19
c89 142 Vss 0.00380395f
c90 137 Vss 0.00119929f
c91 129 Vss 0.0129925f
c92 124 Vss 8.20954e-19
c93 123 Vss 0.00416713f
c94 118 Vss 8.42922e-19
c95 117 Vss 0.00171404f
c96 116 Vss 0.00154361f
c97 114 Vss 0.00516329f
c98 101 Vss 0.00400427f
c99 96 Vss 0.00412244f
c100 87 Vss 1.41859e-19
c101 81 Vss 0.00270839f
c102 76 Vss 8.07404e-19
c103 71 Vss 0.00125472f
c104 66 Vss 0.00178947f
c105 63 Vss 0.00389308f
c106 59 Vss 0.00728678f
c107 54 Vss 0.0039211f
c108 43 Vss 0.0342891f
c109 42 Vss 0.100066f
c110 35 Vss 1.95386e-19
c111 33 Vss 0.0350852f
c112 32 Vss 0.0990713f
c113 14 Vss 0.00143442f
c114 11 Vss 0.269838f
c115 3 Vss 0.266926f
r116 142 146 0.349767
r117 141 142 4.58464
r118 137 146 0.306046
r119 130 144 0.494161
r120 129 141 0.652036
r121 125 144 0.128424
r122 123 133 0.652036
r123 123 124 10.1279
r124 119 143 0.0828784
r125 117 144 0.494161
r126 117 118 4.37625
r127 116 124 0.652036
r128 115 143 0.551426
r129 115 116 4.58464
r130 114 143 0.551426
r131 113 118 0.652036
r132 113 114 14.7125
r133 87 137 1.82344
r134 81 129 13.5872
r135 81 130 8.04396
r136 81 84 5.79332
r137 76 101 1.16709
r138 76 133 2.16729
r139 71 96 1.16709
r140 71 125 2.16729
r141 66 119 1.82344
r142 63 87 1.16709
r143 59 84 1.16709
r144 54 66 1.16709
r145 45 101 0.0476429
r146 43 45 1.45875
r147 42 46 0.652036
r148 42 45 1.45875
r149 39 43 0.652036
r150 35 96 0.0476429
r151 33 35 1.45875
r152 32 36 0.652036
r153 32 35 1.45875
r154 29 33 0.652036
r155 16 63 0.185659
r156 14 59 0.185659
r157 11 46 3.8511
r158 11 39 3.8511
r159 8 59 0.185659
r160 6 54 0.185659
r161 3 36 3.8511
r162 3 29 3.8511
.ends

.subckt PM_G4_XNOR2_N2_A 2 4 7 10 21 24 28 39 48 53 56 61 66 71 76 84 Vss
c57 84 Vss 4.74028e-19
c58 76 Vss 8.09766e-19
c59 71 Vss 0.00526551f
c60 66 Vss 0.00379683f
c61 61 Vss 0.00265207f
c62 56 Vss 0.0049943f
c63 53 Vss 8.5599e-19
c64 48 Vss 0.126052f
c65 43 Vss 0.0296526f
c66 39 Vss 1.95944e-19
c67 28 Vss 0.152877f
c68 24 Vss 1.05421e-19
c69 21 Vss 0.169632f
c70 18 Vss 0.12596f
c71 16 Vss 0.0247918f
c72 10 Vss 0.121972f
c73 7 Vss 0.324361f
c74 4 Vss 0.138512f
r75 80 84 0.652036
r76 61 76 1.16709
r77 61 84 5.20982
r78 56 71 1.16709
r79 56 80 9.54439
r80 53 66 1.16709
r81 47 71 0.0238214
r82 47 48 2.334
r83 44 47 2.20433
r84 39 76 0.404964
r85 33 48 0.00605528
r86 31 44 0.00605528
r87 29 43 0.494161
r88 28 30 0.652036
r89 28 29 4.84305
r90 25 43 0.128424
r91 24 66 0.0476429
r92 22 24 0.326018
r93 22 24 0.1167
r94 21 43 0.494161
r95 21 24 6.7686
r96 18 66 0.357321
r97 16 24 0.326018
r98 16 18 0.40845
r99 10 39 3.32595
r100 7 33 3.8511
r101 7 31 3.8511
r102 7 30 3.8511
r103 4 25 3.8511
r104 2 18 3.44265
.ends

.subckt PM_G4_XNOR2_N2_NET1 2 4 7 10 30 31 35 41 44 49 58 66 Vss
c34 66 Vss 2.19199e-19
c35 58 Vss 0.0058571f
c36 49 Vss 0.00612925f
c37 44 Vss 0.00128347f
c38 41 Vss 0.00534332f
c39 35 Vss 0.103384f
c40 31 Vss 0.12896f
c41 30 Vss 1.02017e-19
c42 10 Vss 0.236304f
c43 7 Vss 0.381296f
c44 4 Vss 0.00143442f
r45 62 66 0.652036
r46 49 58 1.16709
r47 49 66 13.8373
r48 44 62 2.50071
r49 41 44 1.16709
r50 33 35 1.70187
r51 30 58 0.0238214
r52 30 31 2.20433
r53 27 30 2.334
r54 25 35 0.17282
r55 24 31 0.00605528
r56 21 33 0.17282
r57 18 27 0.00605528
r58 10 21 7.06035
r59 7 25 5.7183
r60 7 24 3.8511
r61 7 18 3.8511
r62 4 41 0.185659
r63 2 41 0.185659
.ends

.subckt PM_G4_XNOR2_N2_NET3 2 4 6 9 21 22 33 39 42 47 56 74 Vss
c49 74 Vss 3.4517e-19
c50 56 Vss 0.0039047f
c51 47 Vss 0.00714759f
c52 42 Vss 0.00198779f
c53 39 Vss 0.00534332f
c54 33 Vss 0.12548f
c55 22 Vss 0.0340569f
c56 21 Vss 0.175814f
c57 9 Vss 0.464757f
c58 6 Vss 0.145805f
c59 4 Vss 0.00143442f
r60 70 74 0.655813
r61 47 56 1.16709
r62 47 74 12.0712
r63 42 70 2.41736
r64 39 42 1.16709
r65 32 56 0.0238214
r66 32 33 2.26917
r67 29 32 2.26917
r68 26 33 0.00605528
r69 24 29 0.00605528
r70 21 23 0.652036
r71 21 22 4.84305
r72 18 22 0.652036
r73 9 26 3.8511
r74 9 24 3.8511
r75 9 23 8.7525
r76 6 18 4.25955
r77 4 39 0.185659
r78 2 39 0.185659
.ends

.subckt PM_G4_XNOR2_N2_B 2 4 7 10 19 20 28 31 33 37 38 48 52 58 61 Vss
c36 61 Vss 0.0281739f
c37 58 Vss 0.00110612f
c38 52 Vss 0.136411f
c39 48 Vss 0.0595342f
c40 38 Vss 0.0333783f
c41 37 Vss 0.090268f
c42 33 Vss 0.0442143f
c43 31 Vss 9.80304e-20
c44 28 Vss 0.0899896f
c45 20 Vss 0.0348277f
c46 19 Vss 0.169632f
c47 10 Vss 0.209756f
c48 7 Vss 0.322768f
c49 4 Vss 0.125964f
c50 2 Vss 0.138383f
r51 55 61 1.16709
r52 55 58 0.0729375
r53 50 52 4.53833
r54 47 48 1.167
r55 42 52 0.00605528
r56 37 39 0.652036
r57 37 38 2.04225
r58 35 48 0.0685365
r59 34 50 0.00605528
r60 33 38 0.652036
r61 32 47 0.0685365
r62 32 33 1.69215
r63 31 61 0.181909
r64 29 61 0.494161
r65 29 31 0.1167
r66 28 47 0.5835
r67 28 31 3.55935
r68 23 61 0.128424
r69 23 61 0.40845
r70 22 61 0.181909
r71 20 22 6.7686
r72 19 61 0.494161
r73 19 22 0.1167
r74 16 20 0.652036
r75 10 39 6.3018
r76 7 42 3.8511
r77 7 35 3.8511
r78 7 34 3.8511
r79 4 61 3.44265
r80 2 16 3.8511
.ends

.subckt PM_G4_XNOR2_N2_Z 2 4 6 8 23 27 30 33 Vss
c29 30 Vss 0.00338645f
c30 27 Vss 0.0063256f
c31 23 Vss 0.00620875f
c32 8 Vss 0.00143442f
c33 6 Vss 0.00143442f
r34 33 35 4.668
r35 30 33 5.45989
r36 27 35 1.16709
r37 23 30 1.16709
r38 8 27 0.185659
r39 6 23 0.185659
r40 4 27 0.185659
r41 2 23 0.185659
.ends

